US08211927B2
B: Ethyl 5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate
A mixture of ethyl 2,4-dioxo-4-(4-(trifluoromethyl)phenyl)butanoate (6.89 g, 23.9 mmol) and hydroxylamine hydrochloride (2.0 g, 28.7 mmol) in ethanol (120 mL) was stirred at reflux overnight. The volatiles were removed in vacuo, and the residue purified by silica gel chromatography, eluting with dichloromethane to obtain the title compound (4.5 g, 15.6 mmol).

reactant | ethyl 2,4-dioxo-4-(4-(trifluoromethyl)phenyl)butanoate | 23.9 mmol, 6.89 g | O=C(C(=O)OCC)CC(C1=CC=C(C=C1)C(F)(F)F)=O | C13H11F3O4
reactant | hydroxylamine hydrochloride | 28.7 mmol, 2.0 g | Cl.NO
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | Ethyl 5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate | 15.6 mmol, 4.5 g | FC(C1=CC=C(C=C1)C1=CC(=NO1)C(=O)OCC)(F)F | C13H10F3NO3
